Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])[H:11].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])[H:11],-5.2028074942
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][H:7],6.915516760910001
[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.27535520085
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:15].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13][H:14],3.89840849511
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],3.32904415967
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.95038341573
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])[H:10]>>[C:1]=[C:2]1[C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]1([H:9])[H:10],-1.8636926088900003
[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13],-5.19656601241
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.51630510658
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.20803193377
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.73932104869
[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.29831804683
[H:1][C:2]1=[C:3][O:4][C:5]=[C:6]([H:7])[O:8]1>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])=[O:8],-0.198288881049
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-3.0945019513
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.65508592737
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12],-1.03124971332
[H:1][C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:19].[H:1][C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18],4.52787666456
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([C:3]#[C:4])[O:9][C:10]([H:11])([H:12])[H:13],3.93743369781
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.637336712880001
[C:6]([H:7])[O:8][C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-2.06537183967
[C:1].[C:2](#[C:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9],-3.07802233724
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.85426051148
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],1.8695757319
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[O:8].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-1.7846382656200002
[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1].[O:2]=[C:3]([H:4])/[C:5]=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11],2.04238728958
[C:1]=[C:2]([O:3][O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]([O:3][O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],5.636999812130001
[H:16].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.97935167037
[C:4]([H:5])[H:6].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])[H:6],-7.439783519600001
